* Arm A oscillator 8: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 8: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 21.4884
Cg0 i1_A 0 6.848460e-17
Cg1 nand_Y 0 6.848460e-17
Cx0 i1_A 0 8.355420e-17
Cc0 i1_A i7_A 2.808530e-17
Cc1 i1_A i8_A 7.008690e-17
Cx1 i1_A 0 2.164200e-16
Rn1_1 i1_Y i2_A 21.1759
Cg2 i2_A 0 9.707700e-17
Cg3 i1_Y 0 9.707700e-17
Cx2 i2_A 0 2.057290e-16
Cc2 i2_A i4_A 7.381510e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 9.808210e-17
Cg5 i10_Y 0 9.808210e-17
Cc3 i11_A i10_A 5.876220e-17
Cc4 i11_A i12_A 3.028690e-17
Rn11_3 i11_Y i12_A 21.2027
Cg6 i12_A 0 1.522060e-16
Cg7 i11_Y 0 1.522060e-16
Cc5 i12_A i10_A 0.000000e+00
Cc6 i12_A i13_A 5.476610e-17
Rn12_4 i12_Y i13_A 32.4348
Cg8 i13_A 0 2.020020e-16
Cg9 i12_Y 0 2.020020e-16
Cc7 i13_A i14_A 5.136810e-17
Cc8 i13_A s1681_12 2.982580e-17
Cx3 i13_A 0 2.004060e-16
Cx4 i13_A 0 1.126640e-16
Rn13_5 i13_Y i14_A 21.0598
Cg10 i14_A 0 5.882840e-17
Cg11 i13_Y 0 5.882840e-17
Cc9 i14_A s1681_12 1.601380e-16
Cx5 i14_A 0 1.054040e-16
Rn14_6 i14_Y i15_A 30.8902
Cg12 i15_A 0 2.030550e-16
Cg13 i14_Y 0 2.030550e-16
Cc10 i15_A i16_A 3.171630e-17
Cc11 i15_A s1656_6 7.713670e-17
Cc12 i15_A s1681_12 1.377430e-17
Cx6 i15_A 0 9.984740e-17
Rn15_7 i15_Y s1656_6 10.8625
Rn15_8 s1656_6 buf_A 12.2107
Rn15_9 s1656_6 i16_A 21.4384
Cg14 i16_A 0 1.966780e-16
Cg15 buf_A 0 1.469070e-16
Cg16 i15_Y 0 5.113610e-17
Cg17 s1656_6 0 3.947210e-16
Cc13 i16_A i19_A 0.000000e+00
Cx7 i16_A 0 1.377430e-17
Cx8 buf_A 0 5.330050e-17
Cx9 i16_A 0 0.000000e+00
Cx10 i16_A 0 0.000000e+00
Cx11 i16_A 0 2.808530e-17
Cx12 buf_A 0 8.025930e-17
Cx13 s1656_6 0 1.508870e-16
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 1.284900e-17
Cg19 i16_Y 0 1.284900e-17
Cx14 i17_A 0 5.337830e-17
Cx15 i17_A 0 9.572150e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 1.524460e-17
Cg21 i17_Y 0 1.524460e-17
Cx16 i18_A 0 5.169650e-17
Cx17 i18_A 0 9.478030e-17
Rn18_12 i18_Y i19_A 31.6313
Cg22 i19_A 0 2.075810e-16
Cg23 i18_Y 0 2.075810e-16
Cx18 i19_A 0 2.354100e-17
Cx19 i19_A 0 1.145480e-17
Cx20 i19_A 0 1.334770e-16
Cx21 i19_A 0 3.332380e-17
Rn19_13 i19_Y i20_A 31.8009
Cg24 i20_A 0 2.550390e-16
Cg25 i19_Y 0 2.550390e-16
Cx22 i20_A 0 1.377430e-17
Cx23 i20_A 0 7.505050e-17
Cx24 i20_A 0 3.000230e-17
Cx25 i20_A 0 2.022350e-16
Rn2_14 i2_Y i3_A 31.0420
Cg26 i3_A 0 1.558830e-16
Cg27 i2_Y 0 1.558830e-16
Cx26 i3_A 0 5.997250e-17
Cc14 i3_A i4_A 1.736490e-16
Cx27 i3_A 0 6.518500e-17
Rn20_15 i20_Y i21_A 19.9080
Cg28 i21_A 0 1.873020e-17
Cg29 i20_Y 0 1.873020e-17
Cx28 i21_A 0 7.781010e-17
Cx29 i21_A 0 1.395340e-16
Rn21_16 i21_Y i22_A 19.9080
Cg30 i22_A 0 1.873020e-17
Cg31 i21_Y 0 1.873020e-17
Cx30 i22_A 0 7.781010e-17
Cx31 i22_A 0 1.395340e-16
Rn22_17 i22_Y i23_A 19.4973
Cg32 i23_A 0 1.284900e-17
Cg33 i22_Y 0 1.284900e-17
Cx32 i23_A 0 5.337830e-17
Cx33 i23_A 0 9.572150e-17
Rn23_18 i23_Y i24_A 21.2830
Cg34 i24_A 0 8.396910e-17
Cg35 i23_Y 0 8.396910e-17
Cc15 i24_A i27_A 2.354100e-17
Cc16 i24_A i28_A 3.170870e-17
Cx34 i24_A 0 2.021930e-16
Cx35 i24_A 0 1.668560e-17
Rn24_19 i24_Y i25_A 19.4973
Cg36 i25_A 0 3.355400e-17
Cg37 i24_Y 0 3.355400e-17
Cx36 i25_A 0 9.572150e-17
Rn25_20 i25_Y i26_A 32.9884
Cg38 i26_A 0 2.114070e-16
Cg39 i25_Y 0 2.114070e-16
Cx37 i26_A 0 0.000000e+00
Cx38 i26_A 0 3.524080e-17
Cx39 i26_A 0 1.821320e-16
Cx40 i26_A 0 1.821320e-16
Rn26_21 i26_Y i27_A 30.1134
Cg40 i27_A 0 1.833010e-16
Cg41 i26_Y 0 1.833010e-16
Cc17 i27_A i28_A 1.407490e-17
Cx41 i27_A 0 3.331740e-17
Rn27_22 i27_Y i28_A 31.4973
Cg42 i28_A 0 2.316000e-16
Cg43 i27_Y 0 2.316000e-16
Cc18 i28_A s1681_12 5.832330e-17
Cx42 i28_A 0 3.927570e-17
Cx43 i28_A 0 9.711970e-17
Cx44 i28_A 0 3.000230e-17
Rn28_23 i28_Y i29_A 19.4973
Cg44 i29_A 0 1.758750e-17
Cg45 i28_Y 0 1.758750e-17
Cx45 i29_A 0 4.116230e-17
Cx46 i29_A 0 9.572150e-17
Rn29_24 i29_Y i30_A 30.1134
Cg46 i30_A 0 1.618440e-16
Cg47 i29_Y 0 1.618440e-16
Cx47 i30_A 0 1.145480e-17
Cc19 i30_A s1681_12 0.000000e+00
Cx48 i30_A 0 1.669550e-17
Rn3_25 i3_Y i4_A 31.7473
Cg48 i4_A 0 1.979330e-16
Cg49 i3_Y 0 1.979330e-16
Cx49 i4_A 0 1.024490e-16
Cx50 i4_A 0 7.807140e-18
Rn30_26 i30_Y nand_B 29.9839
Cg50 nand_B 0 1.706360e-16
Cg51 i30_Y 0 1.706360e-16
Cx51 nand_B 0 2.065830e-17
Cc20 nand_B i10_A 0.000000e+00
Cc21 EN nand_B 5.807060e-18
Rn4_27 i4_Y i5_A 33.0598
Cg52 i5_A 0 2.856270e-16
Cg53 i4_Y 0 2.856270e-16
Cc22 i5_A i6_A 5.476610e-17
Cc23 i5_A i7_A 0.000000e+00
Cx52 i5_A 0 1.204850e-16
Cx53 i5_A 0 2.494450e-16
Cc24 EN i5_A 3.368170e-17
Cx54 i5_A 0 5.037870e-17
Rn5_28 i5_Y i6_A 20.8991
Cg54 i6_A 0 4.515590e-17
Cg55 i5_Y 0 4.515590e-17
Cc25 i6_A i7_A 5.476610e-17
Cx55 i6_A 0 1.169030e-16
Cc26 EN i6_A 1.179560e-16
Rn6_29 i6_Y i7_A 31.5866
Cg56 i7_A 0 1.591730e-16
Cg57 i6_Y 0 1.591730e-16
Cc27 i7_A i8_A 2.808530e-17
Cx56 i7_A 0 3.797560e-17
Cc28 EN i7_A 2.940470e-16
Cx57 i7_A 0 0.000000e+00
Rn7_30 i7_Y i8_A 22.1313
Cg58 i8_A 0 8.095250e-17
Cg59 i7_Y 0 8.095250e-17
Cx58 i8_A 0 2.866820e-16
Cc29 i8_A i9_A 5.476610e-17
Cx59 i8_A 0 4.178000e-17
Rn8_31 i8_Y i9_A 21.7205
Cg60 i9_A 0 6.108440e-17
Cg61 i8_Y 0 6.108440e-17
Cx60 i9_A 0 6.538210e-17
Cc30 i9_A i10_A 3.980900e-17
Cx61 i9_A 0 2.704600e-16
Rn9_32 i9_Y i10_A 31.5420
Cg62 i10_A 0 1.813380e-16
Cg63 i9_Y 0 1.813380e-16
Cx62 i10_A 0 1.209500e-16
Cx63 i10_A 0 2.710040e-17
Cx64 i10_A 0 0.000000e+00
Rout_33 buf_X s1681_12 31.5500
Cg64 buf_X 0 9.032500e-16
Cg65 s1681_12 0 2.374220e-15
Cx65 i30_A 0 1.145480e-17
Cx66 i3_A 0 5.997250e-17
Cx67 nand_B 0 2.065830e-17
Cx68 s1681_12 0 4.138860e-16

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
